US04665202
As in example 14 but starting from 3.16 g 4-chloro-3-formyl-8-methoxy-thioflav-3-ene in 30 ml dry methanol and 0.35 g sodium borohydride. After work up, the crude oil is crystallized in a mixture of n-hexane and ethylacetate. Pure 4-chloro-3-hydroxymethyl-8-methoxy-thioflav-3-ene is obtained as yellow crystals; m.p. 143°-145° C.-TLC (SiO2, n-hexane CH2Cl2 1:1): Rf =0.05.

reactant | 4-chloro-3-formyl-8-methoxy-thioflav-3-ene | 3.16 g | ClC1=C(C(SC2=C(C=CC=C12)OC)C1=CC=CC=C1)C=O | C17H13ClO2S
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium borohydride | 0.35 g | [BH4-].[Na+]
product | 4-chloro-3-hydroxymethyl-8-methoxy-thioflav-3-ene | ClC1=C(C(SC2=C(C=CC=C12)OC)C1=CC=CC=C1)CO | C17H15ClO2S
